US08912221B2
Step C: (R)-1-(4-Bromo-2-fluoro-phenyl)-ethylamine hydrochloride
To a solution of (S)-2-methyl-propane-2-sulfinic acid [(R)-1-(4-bromo-2-fluoro-phenyl)-ethyl]-amide (4.02 g, 12.5 mmol) in methanol (25 ml) was added a 4M HCl solution in dioxane (6.24 ml, 25.0 mmol) and the mixture was stirred for 4 h. The reaction mixture was then concentrated and diethyl ether was added. The resulting suspension was stirred for 2 h and then filtered to deliver the title compound as white solid (3.11 g, 98%).

reactant | (S)-2-methyl-propane-2-sulfinic acid [(R)-1-(4-bromo-2-fluoro-phenyl)-ethyl]-amide | 12.5 mmol, 4.02 g | BrC1=CC(=C(C=C1)[C@@H](C)N[S@@](=O)C(C)(C)C)F | C12H17BrFNOS
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 25.0 mmol, 6.24 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 25 ml | CO | CH4O
product | (R)-1-(4-Bromo-2-fluoro-phenyl)-ethylamine hydrochloride | Cl.BrC1=CC(=C(C=C1)[C@@H](C)N)F | InChI=1S/C8H9BrFN.ClH/c1-5(11)7-3-2-6(9)4-8(7)10;/h2-5H,11H2,1H3;1H/t5-;/m1./s1
